US07208497B2
4-Cyclopropylmethyl piperazine-1-carboxylic acid tert-butyl ester
To a solution of 1-tert-butyloxycarbonylpiperazine (2.24 g, 12.0 mmol) in THF (10 ml) were added water (0.15 ml), acetic acid (3.60 ml), formylcyclopropane (1.35 ml, 18.1 mmol), and sodium cyanoborohydride (18 ml of a 1M solution in THF, 18 mmol). The mixture was stirred at 20° C. for 14 hours. The mixture is concentrated under reduced pressure, and the residue is mixed with water (80 ml) and 1 N aqueous hydrochloric acid (40 ml). After washing with ethyl acetate (20 ml) the aqueous phase is made basic by addition of potassium carbonate (approx. 20 g) and extracted with ethyl acetate (4×30 ml). The combined extracts were dried with magnesium sulphate and concentrated under reduced pressure, to yield 2.3 g (80%) of the title compound as a colourless oil.

reactant | 1-tert-butyloxycarbonylpiperazine | 12.0 mmol, 2.24 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | water | 0.15 ml | O | H2O
reactant | formylcyclopropane | 18.1 mmol, 1.35 ml | C(=O)C1CC1 | C4H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 3.60 ml | C(C)(=O)O | C2H4O2
product | 4-Cyclopropylmethyl piperazine-1-carboxylic acid tert-butyl ester | 2.3 g, 80% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1CC1 | C13H24N2O2
